US08133864B2
To a solution of crude N-t-butoxycarbonyl-(S)-2-amino-5-(1-piperidinyl)pentanoic acid benzyl ester in ethanol (1.5 mL) was added 5% palladium-carbon (15.0 mg) and the mixture was stirred for 1 hour under hydrogen atmosphere. The insoluble materials were removed by suction filtration using selite, and the residue was washed with ethanol (10 mL). The filtrate and washings were collected and concentrated under vacuum to obtain crude N-t-butoxycarbonyl-(S)-2-amino-5-(1-piperidinyl)pentanoic acid (69.0 mg) as a colorless oily material.

reactant | N-t-butoxycarbonyl-(S)-2-amino-5-(1-piperidinyl)pentanoic acid benzyl ester | C(C1=CC=CC=C1)OC([C@H](CCCN1CCCCC1)NC(=O)OC(C)(C)C)=O | C22H34N2O4
solvent | ethanol | 1.5 mL | C(C)O | C2H6O
catalyst | palladium-carbon | 15.0 mg | [C].[Pd]
product | N-t-butoxycarbonyl-(S)-2-amino-5-(1-piperidinyl)pentanoic acid | 69.0 mg | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CCCN1CCCCC1 | C15H28N2O4
